resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.00632
R2 0 n2 1.016998
R3 0 n4 1.008457
R4 n1 n3 1.018851
R5 n1 n5 0.997561
R6 n2 n3 1.011776
R7 n2 n6 1.015646
R8 n3 n7 1.003444
R9 n4 n5 0.995843
R10 n4 n6 0.982855
C11 n5 n7 9.75e-06
R12 n6 n7 1.003196
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r12[i]
.endc
.end
